* CMRR simulation

.lib ac4

VIN     in 0    dc 0 ac 1
VDD	vdd 0	half
VSS	0 vss	half
 
X1      s1 in oc vdd vss        opamp
R11     oc s1           valrf
C11     s1 in           valcf
R21     oc 0            valrl
 
X2      s2 in od vdd vss        opamp
R12     od s2           valrf
C12     s2 0            valcf
R22     od 0            valrl
 
.PARAM half='psvoltage/2' valrl=20k valrf=1T valcf=10m
.AC DEC 10 0.1 10G
* .MEAS AC cmrr MAX VDB(od,oc) FROM=0.1 TO=10G
.MEAS AC cmrr MAX par'vm(od)/vm(oc)' FROM=0.1 TO=10G
.MEAS AC cmrr_db MAX par'vdb(od)-vdb(oc)' FROM=0.1 TO=10G

.PRINT AC 'vdb(od)' 'vdb(oc)' 'vdb(od)-vdb(oc)'


.endl ac4
